US07335658B2
6-[4-(2,5-DICHLOROBENZYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 11, making variations only as required to use 2,5-dichlorobenzyl chloride in place of 2-trifluoromethylbenzyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white solid (43% yield). 1H NMR (300 MHz, CDCl3) δ 7.96-8.04, 7.53, 7.16-7.33, 6.96, 3.75-3.84, 3.64, 3.56, 2.62-2.70, 1.53, 1.51, 0.70-0.83, 0.43-0.51, 0.06-0.13. MS (ES+) m/z 434 (M).

reactant | 2,5-dichlorobenzyl chloride | ClC1=C(CCl)C=C(C=C1)Cl | C7H5Cl3
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2,5-DICHLOROBENZYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)CC1=C(C=CC(=C1)Cl)Cl | C21H25Cl2N5O
